US04430422
(b) 1-butoxy-3-(2-ethylhexyloxy)-2-propanol
260 g (2 mol) of 2-ethylhexanol and 130 g (1 mol) of 1-butoxy-2,3-epoxypropane were stirred together and 0.25 ml of 70% aqueous perchloric acid was added thereto. The mixture was heated for 4 h at 100° C. and then cooled. Next, 1 l of ether was added. The mixture was rinsed twice with water and dried over potassium carbonate. After filtration and concentration by evaporation the crude product was fractionated under reduced pressure. The excess 2-ethylhexanol was removed. Yield: 151 g of oil-former 10 (58.2%) boiling at 146° C./12 mm Hg.

reactant | 2-ethylhexanol | 2 mol, 260 g | C(C)C(CO)CCCC | C8H18O
reactant | 1-butoxy-2,3-epoxypropane | 1 mol, 130 g | C(CCC)OCC1CO1 | C7H14O2
reactant | perchloric acid | 0.25 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | ether | 1 l | CCOCC | C4H10O
product | 1-butoxy-3-(2-ethylhexyloxy)-2-propanol | C(CCC)OCC(COCC(CCCC)CC)O | C15H32O3
